US09085517B2
4-{[(5-Chloro-6-isopropoxypyridin-3-yl)oxy]methyl}-N-[(dimethylamino)sulfonyl]-2,5-difluorobenzamide
A solution of 5-chloro-6-isopropoxypyridin-3-ol (Preparation 6, 44 mg, 0.232 mmol), 4-(bromomethyl)-N-[(dimethylamino)sulfonyl]-2,5-difluorobenzamide (Preparation 1, 83 mg, 0.23 mmol) and potassium carbonate (64 mg, 0.47 mmol) in dimethyl sulfoxide (5 mL) was stirred at room temperature for 16 hours. The reaction mixture was diluted with water (20 mL) and acidified to ˜pH 4 using acetic acid (2 mL). The resulting precipitate was filtered, washed with water (20 mL) and dried to afford the title compound as a white solid (32 mg).

reactant | 5-chloro-6-isopropoxypyridin-3-ol | 0.232 mmol, 44 mg | ClC=1C=C(C=NC1OC(C)C)O | C8H10ClNO2
reactant | 4-(bromomethyl)-N-[(dimethylamino)sulfonyl]-2,5-difluorobenzamide | 0.23 mmol, 83 mg | BrCC1=CC(=C(C(=O)NS(=O)(=O)N(C)C)C=C1F)F | C10H11BrF2N2O3S
reactant | potassium carbonate | 0.47 mmol, 64 mg | C([O-])([O-])=O.[K+].[K+]
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
solvent | water | 20 mL | O | H2O
product | 4-{[(5-Chloro-6-isopropoxypyridin-3-yl)oxy]methyl}-N-[(dimethylamino)sulfonyl]-2,5-difluorobenzamide | 32 mg | ClC=1C=C(C=NC1OC(C)C)OCC1=CC(=C(C(=O)NS(=O)(=O)N(C)C)C=C1F)F | C18H20ClF2N3O5S
